US04150140
Ethyl (2-Benzothiazolyl)Oxamate
A mixture of 2-aminobenzothiazole (5.0 g., 0.033 mol) and diethyl oxalate (50 ml.) is heated at reflux for 2.5 hours. A white solid precipitates from the cooled reaction mixture. The solid is recrystallized from ethanol (with a hot filtration) to give the desired product (3.72 g., m.p. 185°-186°, 44%).

reactant | 2-aminobenzothiazole | 0.033 mol, 5.0 g | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | diethyl oxalate | 50 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
product | Ethyl (2-Benzothiazolyl)Oxamate | 3.72 g, 44% | S1C(=NC2=C1C=CC=C2)NC(C(=O)OCC)=O | C11H10N2O3S
